US05476875
A suspension of 17.2 g of ethyl 4-hydroxy-3-methoxy-5-nitrophenylglyoxylate in 100 ml of dry acetonitrile and 100 ml of dry toluene is treated with 10.53 g of sodium iodide and 11.9 g of silicon tetrachloride and heated under reflux for 47 hours. The reaction mixture is then evaporated and the residue is distilled six times with 200 ml of toluene each time. The residue obtained is partitioned between water and ether and filtered through a filter aid of diatomaceous earth. The ethereal phase is washed four times with saturated sodium chloride solution, dried over sodium sulfate, filtered and evaporated. The oily residue is treated three times with ether and active carbon. There is obtained ethyl 3,4-dihydroxy-5-nitrophenylglyoxylate of m.p. 77°-79° (from ether/n-hexane).

reactant | ethyl 4-hydroxy-3-methoxy-5-nitrophenylglyoxylate | 17.2 g | OC1=C(C=C(C=C1[N+](=O)[O-])C(C(=O)OCC)=O)OC | C11H11NO7
reactant | sodium iodide | 10.53 g | [I-].[Na+]
reactant | silicon tetrachloride | 11.9 g | [Si](Cl)(Cl)(Cl)Cl | Cl4Si
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 3,4-dihydroxy-5-nitrophenylglyoxylate | OC=1C=C(C=C(C1O)[N+](=O)[O-])C(C(=O)OCC)=O | C10H9NO7
